US05629340
100 g of 4-hydroxy-3-methoxybenzaldehyde was dissolved in 700 ml of dimethylformamide, further 100 g of anhydrous potassium carbonate and 90 ml of benzyl bromide were added thereto, and the mixture was stirred for 1.5 hours at 80° C. After the completion of the reaction, the reaction solution was poured into 1 liter of water and extracted with 300 ml of ethyl acetate three times. The ethyl acetate layer was washed with water twice and dried over anhydrous magnesium sulfate and then concentrated. The residue obtained was crystallized from methanol, affording 142.95 g of 4-benzyloxy-3-methoxybenzaldehyde (89% yield).

reactant | 4-hydroxy-3-methoxybenzaldehyde | 100 g | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
reactant | potassium carbonate | 100 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 90 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 1 liter | O | H2O
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
product | 4-benzyloxy-3-methoxybenzaldehyde | 142.95 g, 89% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
